US04371713
In the same reaction apparatus as in Example 1, 150 g of 25% fuming sulfuric acid was dropwise added over a period of one hour to 500 g of tetrahydrofuran maintained at 0° C., and the mixture was subjected to reaction at 0° C. for 2 hours. The reaction mixture remained liquid even after completion of the reaction, and the conversion was 68%. This reaction mixture was then treated in the same way as in Example 1, except that 630 g of ion exchanged water was added, to obtain colorless PTMG. The results of the analyses of the obtained PTMG and the catalytic efficiency α were as shown in Table 1, which indicates far lower catalyst utilization efficiency than in the process of this invention. In the hope of obtaining PTMG having a molecular weight of around 650 according to this method, experiments were carried out by changing the amount of fuming sulfuric acid used, the SO3 concentration, the fuming sulfuric acid dropping rate and the polymerization time after dropping, but any of the resulting PTMG's had a molecular weight above 850, and it was impossible to obtain PTMG with a molecular weight of around 650.

reactant | sulfuric acid | 150 g | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
